US08222416B2
A solution of 2-(1-(3-ethoxy-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.3 g, 4.2 mmol) in methanol (30 mL) was treated with 10% palladium on carbon (130 mg). The reaction was stirred for 16 h at 25° C. under a balloon filled with hydrogen gas. The reaction mixture was filtered through a pad of celite and washed with methanol (2×20 mL). The filtrate was concentrated in vacuo. Silica gel column chromatography (30 g, ethyl acetate/petroleum ether: 1:10) afforded 2-(1-(3-ethoxy-phenyl)-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridine (800 mg, 62%) as a white solid: 1H NMR (300 MHz, CDCl3) δ ppm 9.37 (s, 1H), 8.15 (d, 1H, J=4.5 Hz), 7.83 (d, 1H, J=7.5 Hz), 7.20 (t, 1H, J=7.8 Hz), 7.01 (dd, 1H, J1=7.8 Hz, J2=4.8 Hz), 6.87-6.74 (m, 3H), 6.32 (s, 1H), 4.15 (t, 1H, J=8.1 Hz), 3.95 (q, 2H, J=6.9 Hz), 2.08-1.91 (m, 2H), 1.59-1.50 (m, 1H), 1.37 (t, 3H, J=6.9 Hz), 0.96 (s, 3H), 0.94 (s, 3H).

reactant | 2-(1-(3-ethoxy-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 4.2 mmol, 1.3 g | C(C)OC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C20H22N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 130 mg | [Pd] | Pd
product | 2-(1-(3-ethoxy-phenyl)-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridine | 800 mg, 62% | C(C)OC=1C=C(C=CC1)C(CC(C)C)C1=CC=2C(=NC=CC2)N1 | C20H24N2O
